US06307047B1
2-(5-Chloro-2-thienyl)-4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to Example 93, substituting 4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 2-bromo-5-chlorothiophene in place of 4-bromothioanisole (yield: 150 mg, 45%). mp 249-251° C. 1H NMR (300 MHz, CDCl3) δ 3.05 (s, 3H), 6.92 (d, J=9 Hz, 1H), 7.18 (d, J=9 Hz, 2H), 7.31 (d, J=9 Hz, 2H), 7.39 (d, J=9 Hz, 2H), 7.58 (d, J=6 Hz, 1H), 7.94 (d, J=9 Hz, 2Hz, 2H), 8.04 (s, 1H). MS (DCI/NH3) m/z 477 (M+H)+, 494 (M+NH4)+. Anal. calc. for C21H14Cl2N2O3S2.H2O: C, 50.9; H, 3.03; N, 5.60. Found: C, 50.5; H, 2.79; N, 5.26.

reactant | 4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC1=CC=C(C=C1)C=1C(NN=CC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H13ClN2O3S
reactant | 2-bromo-5-chlorothiophene | BrC=1SC(=CC1)Cl | C4H2BrClS
reactant | NH3 | N | H3N
product | 2-(5-Chloro-2-thienyl)-4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC1=CC=C(S1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)C | C21H14Cl2N2O3S2
